US03994968
1-nitro-2-methoxynaphthalene (1 g.) is hydrogenated in absolute ethanol (200 ml.) over Raney nickel catalyst (1 g.) at 25° C and an initial pressure of 40 psi until the theoretical amount of hydrogen is absorbed. The catalyst is removed, the filtrate concentrated to dryness under vacuum, and the residue recrystallized from methanol to yield 1-amino-2-methoxynaphthalene.

reactant | 1-nitro-2-methoxynaphthalene | 1 g | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)OC | C11H9NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 1-amino-2-methoxynaphthalene | NC1=C(C=CC2=CC=CC=C12)OC | C11H11NO
